US09403798B2
Methyl 6-[(2,2,2-trifluoroethoxy)methyl]nicotinate
To an N,N-dimethylformamide solution (10 mL) of methyl 6-(hydroxymethyl)nicotinate (500 mg, 2.99 mmol) and 2,2,2-trifluoroethyl trifluoromethanesulfonate (518 μL, 3.59 mmol), sodium hydride (179 mg, 4.49 mmol) was added at 0° C. and the resultant mixture was stirred at room temperature for 4 hours. After completion of the reaction, water was added to the reaction solution and extraction from the resultant mixture with ethyl acetate was performed. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1) to obtain the title compound (171 mg, yield 23%).

reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
reactant | methyl 6-(hydroxymethyl)nicotinate | 2.99 mmol, 500 mg | OCC1=NC=C(C(=O)OC)C=C1 | C8H9NO3
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 3.59 mmol, 518 μL | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | sodium hydride | 4.49 mmol, 179 mg | [H-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Methyl 6-[(2,2,2-trifluoroethoxy)methyl]nicotinate | 171 mg, yield 23% | FC(COCC1=NC=C(C(=O)OC)C=C1)(F)F | C10H10F3NO3
